US05834499
Example 5 2-(5-Phthalimidopentyl)-8H-indeno[1,2-d]thiazole Starting compound
2-Bromo-1-indanone, 6-phthalimidohexanethioamide

reactant | 2-Bromo-1-indanone | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | 6-phthalimidohexanethioamide | C1(C=2C(C(N1CCCCCC(N)=S)=O)=CC=CC2)=O | C14H16N2O2S
product | 2-(5-Phthalimidopentyl)-8H-indeno[1,2-d]thiazole | C1(C=2C(C(N1CCCCCC=1SC3=C(N1)C=1C=CC=CC1C3)=O)=CC=CC2)=O | C23H20N2O2S
